US06489344B1
A stirred solution of 4-(2-chloroacetyl)benzenecarbonitrile (0.5 M) and imidazole (1.5 M) in CH3CN (200 ml) were heated for 14 hours at 60° C. The product was stripped of solvent under reduced pressure. The residue was diluted with dichloromethane (250 ml) and water (100 ml), and the mixture was stirred for 30 min. After filtering off a solid impurity, the aqueous layer was removed and discarded. The organic layer was washed sequentially with water (60 ml), sat. aq. NaHCO3 (60 ml), water (60 ml), brine (60 ml), dried with Na2SO4, filtered, and concentrated under reduced pressure. The dark colored oil was dried overnight in vacuo giving 4-(2-imidazolylacetyl)benzenecarbonitrile in 90% yield.

reactant | 4-(2-chloroacetyl)benzenecarbonitrile | 0.5 M | ClCC(=O)C1=CC=C(C=C1)C#N | C9H6ClNO
reactant | imidazole | 1.5 M | N1C=NC=C1 | C3H4N2
solvent | CH3CN | 200 ml | CC#N | C2H3N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 4-(2-imidazolylacetyl)benzenecarbonitrile | 90% yield | N1C(=NC=C1)CC(=O)C1=CC=C(C=C1)C#N | C12H9N3O
